US05536725
Under a nitrogen atmosphere, a mixture of 3.2 grams (0.08 mole) of sodium hydride (60% in mineral oil) in 25 mL of tetrahydrofuran is stirred, and a solution of 7.9 grams (0.08 mole) of trimethylsilylacetylene in 15 mL of tetrahydrofuran is added dropwise. Upon completion of addition, the reaction mixture is stirred at ambient temperature for about one hour. The reaction mixture is then cooled to 0° C., and a solution of 18.9 grams (0.08 mole) of 8-methylsulfonyloxy-1,4-dioxaspiro[4.5]decane in 25 mL of tetrahydrofuran is added dropwise. Upon completion of addition, the reaction mixture is allowed to warm to ambient temperature where it is stirred during about 18 hours. After this time the reaction mixture is concentrated under reduced pressure to a residue. The residue is stirred in water, and the mixture is extracted with three 50 mL portions of diethyl ether. The combined extracts are washed with water and dried with magnesium sulfate. The mixture is filtered, and the filtrate is concentrated under reduced pressure, yielding 8-trimethylsilylethynyl-1,4-dioxaspiro[4.5]decane.

reactant | sodium hydride | 0.08 mole, 3.2 grams | [H-].[Na+]
reactant | trimethylsilylacetylene | 0.08 mole, 7.9 grams | C[Si](C)(C)C#C | C5H10Si
reactant | 8-methylsulfonyloxy-1,4-dioxaspiro[4.5]decane | 0.08 mole, 18.9 grams | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 8-trimethylsilylethynyl-1,4-dioxaspiro[4.5]decane | C[Si](C)(C)C#CC1CCC2(OCCO2)CC1 | C13H22O2Si
